US07652049B2
A mixture of benzyl ((1S,2S)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-cyano-1-methylethyl)carbamate (115.6 mg, 0.287 mmol), diethyldithiophosphate (1 mL) and water (3 drops) was stirred overnight at room temperature. The reaction mixture was partitioned between saturated NaHCO3 (40 mL) and EtOAc (40 mL). The aqueous layer was separated and extracted with EtOAc (2×40 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-40% EtOAc in hexanes gradient) to afford benzyl ((1S,2S)-3-amino-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methyl-3-thioxopropyl)carbamate as a colorless oil. Rf=0.30 (20% EtOAc in hexanes). LCMS calc.=383.2; found=383.1 (M+1)+. 1H NMR (500 MHz, CDCl3) δ 8.36 (s, 1H), 7.87 (s, 1H), 7.37-7.29 (m, 5H), 5.13 (m, 2H), 4.85 (d, J=8.2 Hz, 1H), 4.72 (s, 1H), 4.47 (m, 1H), 1.05 (d, J=6.7 Hz, 3H), 0.96 (s, 9H), 0.08 (s, 3H), 0.07 (s, 3H).

reactant | benzyl ((1S,2S)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-cyano-1-methylethyl)carbamate | 0.287 mmol, 115.6 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C)NC(OCC1=CC=CC=C1)=O)C#N | C18H28N2O3Si
reactant | diethyldithiophosphate | 1 mL | C(C)SP(=S)(OCC)[O-]
catalyst | water | 3 drops | O | H2O
product | benzyl ((1S,2S)-3-amino-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methyl-3-thioxopropyl)carbamate | NC([C@H]([C@H](C)NC(OCC1=CC=CC=C1)=O)O[Si](C)(C)C(C)(C)C)=S | C18H30N2O3SSi
